US07700623B2
To an ethanol (8 mL) suspension of 0.20 g of ethyl=4-{3-[4-(3-{4-[ethoxy(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzimidate were sequentially added 0.39 g of O-ethylhydroxylamine hydrochloride and 0.84 mL of triethylamine under cooling with ice, which was then stirred at room temperature for 3.5 days. The reaction mixture was added to a mixture of chloroform and water, which was then adjusted to pH 9.7 using a 20% sodium hydroxide aqueous solution. The organic layer was separated, washed with water, and then dried with anhydrous sodium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; chloroform:ethanol=20:1) to provide 0.20 g of 4-{3-[4-(3-{4-[amino(ethoxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide=O-ethyloxime as white solid form.

reactant | ethanol | 8 mL | C(C)O | C2H6O
reactant | 4-{3-[4-(3-{4-[ethoxy(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzimidate | C(C)OC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C([O-])=N)C=C2)C=C1)=N
reactant | O-ethylhydroxylamine hydrochloride | 0.39 g | Cl.C(C)ON
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.84 mL | C(C)N(CC)CC | C6H15N
product | 4-{3-[4-(3-{4-[amino(ethoxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamide | 0.20 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=O)N)C=C2)C=C1)=NOCC | C27H38N4O4
